US07041668B2
5.75 g of 3,4-diaminophenol were combined with 15.5 g of 1,3-bis(tert-butoxycarbonyl)-2-methyl-2-thiopseudourea in 150 ml methanol and 22 ml acetic acid in a round bottom flask. The reaction mixture was heated to reflux with stirring for 3 hours. Solvents were then evaporated under reduce pressure yielding 7.13 g crude (5-hydroxy-1H-benzoimidazol-2-yl)-carbamic acid tert-butyl ester.

reactant | 3,4-diaminophenol | 5.75 g | NC=1C=C(C=CC1N)O | C6H8N2O
reactant | 1,3-bis(tert-butoxycarbonyl)-2-methyl-2-thiopseudourea | 15.5 g | C(C)(C)(C)OC(=O)NC(SC)=NC(=O)OC(C)(C)C | C12H22N2O4S
solvent | methanol | 150 ml | CO | CH4O
solvent | acetic acid | 22 ml | C(C)(=O)O | C2H4O2
product | (5-hydroxy-1H-benzoimidazol-2-yl)-carbamic acid tert-butyl ester | 7.13 g | C(C)(C)(C)OC(NC1=NC2=C(N1)C=CC(=C2)O)=O | C12H15N3O3
